US04902698
(c) 3-(5-Aminopyrid-2-yl)propionic acid
A solution of 3-(5-nitropyrid-2-yl)propionic acid (4.50 g) in ethanol (140 ml) containing 10% palladium on carbon (0.45 g) was shaken under an atmosphere of hydrogen at 3.4 atmospheres pressure for 1.5 hours. The catalyst was removed by filtration and the filtrate was evaporated to dryness. The residue was recrystallised from acetonitrile to give the title compound (3.43 g) m.p. 118°-120° C.

reactant | 3-(5-nitropyrid-2-yl)propionic acid | 4.50 g | [N+](=O)([O-])C=1C=CC(=NC1)CCC(=O)O | C8H8N2O4
solvent | ethanol | 140 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.45 g | [Pd] | Pd
product | 3-(5-Aminopyrid-2-yl)propionic acid | 3.43 g | NC=1C=CC(=NC1)CCC(=O)O | C8H10N2O2
